US04806145
Hydrolysis of 2.2 g (0.0063 mole) of 1-[2,4-dichloro-5-(1-methylethoxy)phenyl]-3-difluoromethyl-4,5-dihydro-4-methyl-1,2,4-triazol-5(1H)-one in 5 mL of concentrated sulfuric acid produced 1.4 g of 1-(2,4-dichloro-5-hydroxyphenyl)-3-difluoromethyl-4,5-dihydro-4-methyl-1,2,4-triazol-5(1H)-one (mp 176°-179° C.).

reactant | 1-[2,4-dichloro-5-(1-methylethoxy)phenyl]-3-difluoromethyl-4,5-dihydro-4-methyl-1,2,4-triazol-5(1H)-one | 0.0063 mole, 2.2 g | ClC1=C(C=C(C(=C1)Cl)OC(C)C)N1N=C(N(C1=O)C)C(F)F | C13H13Cl2F2N3O2
solvent | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
product | 1-(2,4-dichloro-5-hydroxyphenyl)-3-difluoromethyl-4,5-dihydro-4-methyl-1,2,4-triazol-5(1H)-one | 1.4 g | ClC1=C(C=C(C(=C1)Cl)O)N1N=C(N(C1=O)C)C(F)F | C10H7Cl2F2N3O2
